US06686381B2
[2-(5-Amino-pentylamino)-4-methyl-thiazol-5-yl]-o-tolyl-methanone Hydrochloride
A solution of 170 mg (0.4 mmol) {5-[4-Methyl-5-(2-methyl-benzoyl)-thiazol-2-ylamino]-pentyl}-carbamic acid tert-butyl ester in 2 ml dioxane was treated with 1 ml 4N HCl in dioxane and allowed to react for 5 h at room temperature. The mixture was evaporated under reduced pressure to afford 143 mg (99%) of the title compound.

reactant | {5-[4-Methyl-5-(2-methyl-benzoyl)-thiazol-2-ylamino]-pentyl}-carbamic acid tert-butyl ester | 0.4 mmol, 170 mg | C(C)(C)(C)OC(NCCCCCNC=1SC(=C(N1)C)C(C1=C(C=CC=C1)C)=O)=O | C22H31N3O3S
reactant | HCl | 4N, 1 ml | Cl | ClH
solvent | dioxane | 2 ml | O1CCOCC1 | C4H8O2
product | [2-(5-Amino-pentylamino)-4-methyl-thiazol-5-yl]-o-tolyl-methanone Hydrochloride | 143 mg, 99% | Cl.NCCCCCNC=1SC(=C(N1)C)C(=O)C1=C(C=CC=C1)C | InChI=1S/C17H23N3OS.ClH/c1-12-8-4-5-9-14(12)15(21)16-13(2)20-17(22-16)19-11-7-3-6-10-18;/h4-5,8-9H,3,6-7,10-11,18H2,1-2H3,(H,19,20);1H
